* source JEDL_PROJECT_2
X_U1         0 0 N00863 N00646 N00754 0 0 N01035 N00420 N00420 N00852 LM723
V_V1         N00220 0 8Vdc
C_C1         0 N00220  1n  TC=0,0 
C_C4         0 N00420  0.1u  TC=0,0 
C_C5         N00646 N00420  0.047u  TC=0,0 
R_R1         N00646 N00754  1k TC=0,0 
R_R2         0 N00646  1k TC=0,0 
C_C6         N00863 N00852  470p  TC=0,0 
R_R3         N00863 N00852  1k TC=0,0 
R_R4         N00852 N02077  1k TC=0,0 
R_R5         0 N00852  1k TC=0,0 
L_L1         N00420 N01484  1000uH  
Q_IRF510         N01484 N01886 0 QbreakP 
R_R7         0 N01035  470 TC=0,0 
R_ARD_Error_Voltage         0 N01035  1k TC=0,0 
V_V2         N01886 0  
+PULSE 8 0 0 1E-9 1E-9 0.9 2
D_1N5817         N01484 N02077 Dbreak 
C_C3         0 N02077  2200u  TC=0,0 
C_C2         0 N02077  0.1u  TC=0,0 
R_LOAD         0 N02077  1k TC=0,0 
R_R8         N00220 N00420  1k TC=0,0 
